*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXK2R5ARA331ME61G
*//   Date        : 2020/12/24
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXK2R5ARA331ME61G_20deg-C 1 2

C1 4 2 2.48e-04
C2 5 2 3.53e-05
C3 6 2 1.57e-05
R1 3 4 1.31e-02
R2 4 5 1.92e-01
R3 5 6 2.66e+00
L1 1 3 2.10e-09

.ENDS
